US04609767
The procedure of Example 2 was followed using 50.45 grams (0.202 mol) of 2,6-di-sec-butyl-α-methoxy-p-cresol in 30 mL methylene chloride and 39.0 grams (0.320 mol) 2,6-dimethylphenol with 42 grams 78% sulfuric acid. The reaction was carried out at about 8° C. with mechanical stirring. The 2,6-di-sec-butylephenol used to prepare the cresol according to the procedure of Example 3 was of only 85.7 percent purity. Accordingly, the yield of the cresol was only 67% (86.9 area % by gas chromatography). The product of the invention: [4-[[4-hydroxy-3,5-bis(1-methylpropyl)phenyl]methyl]-2,6-dimethylphenol, was obtained as a viscous oil (liquid) at room temperature in 90 percent yield (61.77 grams) (84.4 area percent by gas chromatography). The compound has a pour point of 22° C. (as measured by ASTM test D-97).

reactant | 2,6-di-sec-butyl-α-methoxy-p-cresol | 0.202 mol, 50.45 grams | C(C)(CC)C1=CC(=CC(=C1O)C(C)CC)COC | C16H26O2
reactant | 2,6-dimethylphenol | 0.320 mol, 39.0 grams | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | sulfuric acid | 42 grams | S(O)(O)(=O)=O | H2O4S
reactant | cresol | C1(=CC=CC=C1O)C | C7H8O
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-[[4-hydroxy-3,5-bis(1-methylpropyl)phenyl]methyl]-2,6-dimethylphenol | 90 percent yield | OC1=C(C=C(C=C1C(CC)C)CC1=CC(=C(C(=C1)C)O)C)C(CC)C | C23H32O2
